US04695569
To a stirred and hot (50° C.) mixture of 4.1 parts of 2H-3,1-benzoxazine-2,4(1H)-dione and 31.5 parts of N,N-dimethylformamide was added dropwise a solution of 9.4 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine in 31.5 parts of N,N-dimethylformamide at 50° C. Upon completion, stirring wass continued for 3 hours at 50° C. Water was added and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was crystallized from acetonitrile, yielding 9.8 parts (80%) of 2-amino-N-[2-[4-[[1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]-ethyl]benzamide; mp. 171.7° C. (intermediate 157).

reactant | 2H-3,1-benzoxazine-2,4(1H)-dione | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
solvent | Water | O | H2O
product | 2-amino-N-[2-[4-[[1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]-ethyl]benzamide | 80% | NC1=C(C(=O)NCCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=CC=C1 | C28H31FN6O
